US04731458
The next procedure followed is that of the preceding Example for the preparation of 7,7-dichloro-4-(5-ethoxyheptyl)bicyclo [3.2.0] heptan-6-one, substituting 3-heptylcyclopentene (49 g, 0.30 moles) diluted in ether (490 ml), trichloroacetyl chloride (97 g, 0.53 moles) and phosphorous oxychloride (81 g, 0.53 moles) both diluted with ether (150 ml), zinc/copper couple (30 g, 0.59 moles) were used. The crude product is submitted to short path distillation and subsequently fractionally distilled under reduced pressure, leaving a clear, colorless oil of 7,7-dichloro-4-heptylbicyclo[3.2.0]heptan-6-one (20.6 g, 0.075 moles), BP 115° C./0.22 mm.

reactant | 7,7-dichloro-4-(5-ethoxyheptyl)bicyclo [3.2.0] heptan-6-one | ClC1(C(C2C(CCC12)CCCCC(CC)OCC)=O)Cl | C16H26Cl2O2
reactant | 3-heptylcyclopentene | 0.30 moles, 49 g | C(CCCCCC)C1C=CCC1 | C12H22
reactant | trichloroacetyl chloride | 0.53 moles, 97 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorous oxychloride | 0.53 moles, 81 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | 490 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | zinc copper | [Zn].[Cu]
product | 7,7-dichloro-4-heptylbicyclo[3.2.0]heptan-6-one | 0.075 moles, 20.6 g | ClC1(C(C2C(CCC12)CCCCCCC)=O)Cl | C14H22Cl2O
